US04611081
Preparation of tert-butyl (E)-7-(4-fluoro-3,3',5-trimethyl-[1,1-biphenyl]-2-yl)-3-oxo-5-hydroxy-6-heptenoate (one-pot)
To a suspension of (R)-2-acetoxy-1,1,2-triphenylethanol (166 mg, 0.5 mmol) in tetrahydrofuran (1 ml) at -78° C. under nitrogen was added lithium diisopropylamide (prepared from 1.2 mmol butyllithium and 1.2 mmol of diisopropylamine) in tetrahydrofuran (0.5 ml) and the reaction was allowed to warm to 0° C. To the reaction mixture which was recooled to -78° C. was added E-3-(4'-fluoro-3,3',5-trimethyl-[1,1-biphenyl]-2-yl)-propenal (132 mg, 0.5 mmol) in tetrahydrofuran (0.5 ml). After 30 minutes at -78° C., to the reaction mixture lithium tert butylacetate (prepared from tert butyl acetate 3.0 mmol, butyllithium 3.0 mmol and diisopropylamine 3.0 mmol) in tetrahydrofuran (3.0 ml) was added and the reaction mixture allowed to warm to -20° C. over 30 minutes. The mixture was then warmed to 22° and stirred 16 hours. The reaction was quenched with a saturated solution of ammonium chloride and the product extracted into methylene chloride. The organic phase was washed with saturated sodium chloride, dried over sodium sulfate and concentrated in vacuo to afford the above titled product.

reactant | (R)-2-acetoxy-1,1,2-triphenylethanol | 0.5 mmol, 166 mg | C(C)(=O)O[C@@H](C(O)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C22H20O3
reactant | lithium diisopropylamide | 1.2 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | E-3-(4'-fluoro-3,3',5-trimethyl-[1,1-biphenyl]-2-yl)-propenal | 0.5 mmol, 132 mg | FC1=C(C=C(C=C1)C1=C(C(=CC(=C1)C)C)/C=C/C=O)C | C18H17FO
reactant | lithium tert butylacetate | 3.0 mmol | C(C)(C)(C)OC(C)=O.[Li]
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 3.0 ml | O1CCCC1 | C4H8O
product | tert-butyl (E)-7-(4-fluoro-3,3',5-trimethyl-[1,1-biphenyl]-2-yl)-3-oxo-5-hydroxy-6-heptenoate | FC1=C(C(=C(C=C1C)C1=CC(=CC=C1)C)/C=C/C(CC(CC(=O)OC(C)(C)C)=O)O)C | C26H31FO4
